US08350039B2
Alternate synthesis of a substituted 2-aminobenzimidazole. A mixture of 5-fluoro-2-nitro-phenylamine (1 mmol), an amine (2 mmol) in THF (20 mL) is heated at about 60° C. overnight. After cooling the mixture to room temperature, the reaction mixture is concentrated. The crude material is purified on a silica gel column to yield a 5-amino-2-nitro-phenylamine. The 5-amino-2-nitro-phenylamine (1.0 mmol) is dissolved in an ethyl acetate-methanol mixture (about 1:1, 10 mL) in a round-bottom flask. To this solution Pd—C is added, and the mixture is stirred under a hydrogen atmosphere, while monitoring the reaction with thin-layer chromatography (TLC). After TLC shows completion of the reaction, the solution is filtered on celite and then washed with methanol and concentrated to obtain a 4-amino-benzene-1,2-diamine. The 4-amino-benzene-1,2-diamine (1 mmol) is dissolved in ethanol and CNBr (1.5 mmol) is added. The resulting dark brown solution is heated at 60° C. for 30 minutes. Thereafter, the mixture is cooled to room temperature, and the solvent is evaporated. Then, the mixture is co-evaporated with toluene about two times to obtain a 5-amino-1H-benzoimidazol-2-ylamine as a hydrobromide salt. The reaction scheme below provides an illustration that accompanies this textual description.

reactant | 4-amino-benzene-1,2-diamine | 1 mmol | NC=1C=C(C(=CC1)N)N | C6H9N3
reactant | CNBr | 1.5 mmol | N#CBr | CBrN
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1H-benzoimidazol-2-ylamine | NC1=CC2=C(NC(=N2)N)C=C1 | C7H8N4
